US06239131B1
Preparation of 1-tert-butoxycarbonylmethyl-2-oxo-3-benzyloxycarbonylamino-5-phenyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
Under argon atmosphere a solution of 2-oxo-3-benzyloxycarbonylamino-5-phenyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (1.94 g) that obtained from Referential Example 3 in anhydrous tetrahydrofuran (30 ml) was added to a suspension of 60% sodium hydride (400 mg) in anhydrous tetrahydrofuran (30 ml) at 0° C., the mixture was stirred at room temperature for one hour. Tert-butyl bromoacetate (1.46 g) in anhydrous tetrahydrofuran (15 ml) to this solution, the resultant mixture was stirred at room temperature for one hour. Water (300 ml) was added to the reaction mixture, extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. Isopropyl ether was added for trituration to the residue, filtered, to thereby obtain 1.74 g of the titled compound (Yield: 69.4%) as a white solid.

reactant | 2-oxo-3-benzyloxycarbonylamino-5-phenyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1.94 g | O=C1C(CN(C2=C(N1)C=CC=C2)C2=CC=CC=C2)NC(=O)OCC2=CC=CC=C2 | C23H21N3O3
reactant | sodium hydride | 400 mg | [H-].[Na+]
reactant | Tert-butyl bromoacetate | 1.46 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | Water | 300 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1-tert-butoxycarbonylmethyl-2-oxo-3-benzyloxycarbonylamino-5-phenyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1.74 g, Yield: 69.4% | C(C)(C)(C)OC(=O)CN1C(C(CN(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)OCC2=CC=CC=C2)=O | C29H31N3O5
